US08198311B2
To a solution of (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol (158 mg, 0.5 mmol) and (1-methoxypent-1-enyloxy)trimethylsilane (16 mmol) which was prepared using General Silyl Ketene Acetal Method A in 10 mL of dry DCM was added TiCl4 (0.5 mL of 1.0 M DCM solution, 0.5 mmol) and then stirred 1 h. The reaction was quenched with MeOH, poured into aqueous sodium bicarbonate and extracted 2× EtOAc. The organic layers were dried over MgSO4, filtered, concentrated and purified on SiO2 by MPLC using a EtOAc/hexane gradient to give 160 mg (77% yield) of methyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)pentanoate. MS found: (M+H)+=417.

reactant | (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol | 0.5 mmol, 158 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(O)C1=CC=CC=C1 | C20H15FN2O
reactant | (1-methoxypent-1-enyloxy)trimethylsilane | 16 mmol | COC(=CCCC)O[Si](C)(C)C | C9H20O2Si
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.5 mmol, 1.0 M, 0.5 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)pentanoate | 160 mg, 77% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)CCC)C1=CC=CC=C1 | C26H25FN2O2
